US06492406B1
a) 5-Fluoro-indole-3-carboxylic acid methyl ester
To a solution of 5-fluoroindole (2.5 g, 18.5 mmol) in dioxane (75 mL) was added pyridine (14.9 mL, 185 mmol) and trichloroacetyl chloride (10.3 mL, 92.5 mmol). The resulting mixture was stirred at 80° C. for 2.5 hours, poured into ice water and extracted with ethyl acetate. The organic phase was washed with water, brine, dried and evaporated. The residue was dissolved in dry methanol (100 mL), sodium hydroxide (0.25 g) was added and the mixture heated at 80° C. for 30 min. Most of the solvent was evaporated and the residue was partitioned between water and ethyl acetate. The organic phase was washed with brine. dried and concentrated. Purification by silica gel chromatography (heptane-ethyl acetate, 3:1/1:1) gave 3.32 g (93%) of the sub-title compound.

reactant | 5-fluoroindole | 18.5 mmol, 2.5 g | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | pyridine | 185 mmol, 14.9 mL | N1=CC=CC=C1 | C5H5N
reactant | trichloroacetyl chloride | 92.5 mmol, 10.3 mL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | dioxane | 75 mL | O1CCOCC1 | C4H8O2
product | 5-Fluoro-indole-3-carboxylic acid methyl ester | 3.32 g, 93% | COC(=O)C1=CNC2=CC=C(C=C12)F | C10H8FNO2
